US08871187B2
0.2 ml (1.5 mmol) of triethylamine is added to a solution containing 100 mg (0.6 mmol) of desamino-histidine hydrochloride and 180 mg (0.6 mmol) of TBTU in 5 ml of dimethylformamide. After stirring for 1 h at ambient temperature, 200 mg (0.4 mmol) of 2-amino-1-(3-butoxy-3-o-tolylazetidin-1-yl)-3-hydroxy-3-(4-methoxy-phenyl)propan-1-one trifluoroacetate are added. The reaction medium is stirred for 48 h at ambient temperature and then treated with a 1N aqueous solution of sodium hydroxide and extracted with a 20/80 heptane/ethyl acetate mixture. The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is purified by preparative thin layer chromatography (eluent: 90/10 dichloromethane/methanol). 80 mg of N-[1-(3-butoxy-3-o-tolylazetidine-1-carbonyl)-2-hydroxy-2-(4-methoxy-phenyl)ethyl]-3-(1H-imidazol-4-yl)propionamide are obtained in the form of a beige powder with a yield of 39%.

reactant | triethylamine | 1.5 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | desamino-histidine hydrochloride | 0.6 mmol, 100 mg | Cl.C(CC1=CNC=N1)C(=O)O
reactant | TBTU | 0.6 mmol, 180 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-amino-1-(3-butoxy-3-o-tolylazetidin-1-yl)-3-hydroxy-3-(4-methoxy-phenyl)propan-1-one trifluoroacetate | 0.4 mmol, 200 mg | FC(C(=O)O)(F)F.NC(C(=O)N1CC(C1)(C1=C(C=CC=C1)C)OCCCC)C(C1=CC=C(C=C1)OC)O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[1-(3-butoxy-3-o-tolylazetidine-1-carbonyl)-2-hydroxy-2-(4-methoxy-phenyl)ethyl]-3-(1H-imidazol-4-yl)propionamide | 80 mg, yield of 39% | C(CCC)OC1(CN(C1)C(=O)C(C(C1=CC=C(C=C1)OC)O)NC(CCC=1N=CNC1)=O)C1=C(C=CC=C1)C | C30H38N4O5
